US06469004B1
Step b: Preparation of 7-fluoro-6-(4-iodo-2-methyl-phenylamino)-1H-benzoimidazole-5-carboxylic acid hydroxyamide
The compound 7-fluoro-6-(4-iodo-2-methyl-phenylamino)-1H-benzoimidazole-5-carboxylic acid O-(tetrahydro-2H-pyran-2-yl)-oxyamide is dissolved in an appropriate hydrogen chloride-saturated solvent like methanol or ethanol. Once homogeneous, the solution is concentrated in vacuo to give the desired product. The product may be triturated with an appropriate solvent like chloroform or dichloromethane if further purification is necessary.

reactant | 7-fluoro-6-(4-iodo-2-methyl-phenylamino)-1H-benzoimidazole-5-carboxylic acid O-(tetrahydro-2H-pyran-2-yl)-oxyamide | O1C(CCCC1)ONC(=O)C1=CC2=C(NC=N2)C(=C1NC1=C(C=C(C=C1)I)C)F | C20H20FIN4O3
solvent | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 7-fluoro-6-(4-iodo-2-methyl-phenylamino)-1H-benzoimidazole-5-carboxylic acid hydroxyamide | ONC(=O)C1=CC2=C(NC=N2)C(=C1NC1=C(C=C(C=C1)I)C)F | C15H12FIN4O2
